US05250517
2.44 g (11.16 mmol) of di-t-butyl dicarbonate in 5 ml of t-butyl alcohol were added dropwise at room temperature to 2.0 g (11.16 mmol) of α-methyl-D,L-phenylalanine in 11.16 ml of 1N sodium hydroxide solution and 10 ml of t-butyl alcohol, and the reaction mixture was subsequently stirred at room temperature overnight. Thereafter, water was added, the mixture was washed with pentane, the aqueous phase was adjusted to pH 2 by the addition of potassium bisulfate solution and extracted with ethyl acetate. The organic phase was then dried over sodium sulfate and concentrated, to give 1.56 g (50%) of t-butoxycarbonyl-α-methyl-D,L-phenylalanine as a white powder which was used directly in the next step.

reactant | di-t-butyl dicarbonate | 11.16 mmol, 2.44 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | α-methyl-D,L-phenylalanine | 11.16 mmol | CC(N)(CC1=CC=CC=C1)C(=O)O | C10H13NO2
reactant | water | O | H2O
solvent | t-butyl alcohol | 5 ml | C(C)(C)(C)O | C4H10O
solvent | sodium hydroxide | 1N, 11.16 ml | [OH-].[Na+]
solvent | t-butyl alcohol | 10 ml | C(C)(C)(C)O | C4H10O
product | t-butoxycarbonyl-α-methyl-D,L-phenylalanine | 1.56 g, 50% | C(C)(C)(C)OC(=O)NC(CC1=CC=CC=C1)(C(=O)O)C | C15H21NO4
